US04602035
4-Dimethylamino-2-(2-hydroxyphenyl)-2-phenylbutanol hydrochloride
A solution of 28.6 g (102 mmole) 2-(2-oxo-3-phenyl-3-dihydrobenzofuranyl)-N,N-dimethylethylamine in 300 ml anhydrous Et2O was added to 7.74 g (204 mmole) LiAlH4 in 150 ml Et2O at ice bath temperature and this mixture stirred at that temperature for 30 minutes. After further stirring for 2 hours at room temperature, the reaction mixture was quenched with saturated Na2SO4, filtered, and the solids washed with excess EtOAc (4×350 ml). The combined organics were washed with saturated Na2CO3 (300 ml) and saturated NaCl (200 ml), and dried over Na2SO4. Filtration and evaporation gave 28 g of a crude oil which solidified on standing. A solution of 5 g of this material in a minimum amount of CH2Cl2 was added to excess Et2O/HCl. Filtration of the precipitated salt gave 5.5 g of a solid which was recrystallized from EtOH to give 3.2 g (57%) of crystals, m.p. 199°-201°.

reactant | 2-(2-oxo-3-phenyl-3-dihydrobenzofuranyl)-N,N-dimethylethylamine | 102 mmole, 28.6 g | O=C1OC=2C(C1(C1=CC=CC=C1)CCN(C)C)CC=CC2 | C18H21NO2
reactant | LiAlH4 | 204 mmole, 7.74 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | Et2O HCl | CCOCC.Cl
solvent | Et2O | 300 ml | CCOCC | C4H10O
solvent | Et2O | 150 ml | CCOCC | C4H10O
product | 4-Dimethylamino-2-(2-hydroxyphenyl)-2-phenylbutanol hydrochloride | 5.5 g | Cl.CN(CCC(CO)(C1=CC=CC=C1)C1=C(C=CC=C1)O)C | InChI=1S/C18H23NO2.ClH/c1-19(2)13-12-18(14-20,15-8-4-3-5-9-15)16-10-6-7-11-17(16)21;/h3-11,20-21H,12-14H2,1-2H3;1H
